US04820705
(2-Benzenesulphonamido-indan-5-yl) methyl ketone
29.6 g (0.22 mol) of anhydrous aluminium chloride are suspended in 250 ml of ethylene chloride and 10.5 g (0.133 mol) of acetyl chloride and 24.2 g (0.0885 mol) of 2-(benzenesulphonamido)-indane are added successively. After the mixture has been stirred for approx 3 hours at room temperature, it is decomposed with ice and concentrated hydrochloric acid. The reaction product is obtained by concentrating the organic phase and subsequently crystallising the product from cyclohexane/ethyl acetate.

reactant | aluminium chloride | 0.22 mol, 29.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | acetyl chloride | 0.133 mol, 10.5 g | C(C)(=O)Cl | C2H3ClO
reactant | 2-(benzenesulphonamido)-indane | 0.0885 mol, 24.2 g | C1(=CC=CC=C1)S(=O)(=O)NC1CC2=CC=CC=C2C1 | C15H15NO2S
reactant | hydrochloric acid | Cl | ClH
solvent | ethylene chloride | 250 ml | C(CCl)Cl | C2H4Cl2
product | (2-Benzenesulphonamido-indan-5-yl) methyl ketone | CC(=O)C=1C=C2CC(CC2=CC1)NS(=O)(=O)C1=CC=CC=C1 | C17H17NO3S
